US05273999
Preparation of 6-Hydroxy-2,5-quinolinedipropanoic Acid Diethyl Ester
A solution of 0.779 g (3.17 mmol) of 6-hydroxy-2-quinolinepropanoic acid ethyl ester from the preceding example, 1.11 g (6.38 mmol) of triethyl orthoacrylate and 0.491 g (4.81 mmol) of trimethylacetic acid in 21 mL of toluene was stirred at reflux for 16 hr. A solution of 0.283 g (1.62 mmol) of triethyl orthoacrylate in 3 mL of toluene was added and the reaction was allowed to stir under reflux for another 23 hr. After being cooled to room temperature, the solution was diluted with ether, washed three times with saturated aqueous sodium bicarbonate, and work-up was completed in the usual manner. To the residue was added 25 mL of ether, 25 mL of water and 1.21 g (6.36 mmol) of p-toluenesulfonic acid monohydrate and the resulting mixture was stirred at room temperature for 1.5 hr. Saturated aqueous sodium bicarbonate was added and the mixture was worked-up with ethyl acetate in the usual manner. The crude product was flash chromatographed on 110 g of silica gel, eluting with hexane-ethyl acetate (3:1 and 2:1) affording 0.909 g (82.9%) of the title compound as a white solid, mp 74°-76° C.

reactant | 6-hydroxy-2-quinolinepropanoic acid ethyl ester | 3.17 mmol, 0.779 g | C(C)OC(CCC1=NC2=CC=C(C=C2C=C1)O)=O | C14H15NO3
reactant | triethyl orthoacrylate | 6.38 mmol, 1.11 g | CCC(=C(CC)C([O-])([O-])[O-])CC
reactant | trimethylacetic acid | 4.81 mmol, 0.491 g | CC(C(=O)O)(C)C | C5H10O2
reactant | triethyl orthoacrylate | 1.62 mmol, 0.283 g | CCC(=C(CC)C([O-])([O-])[O-])CC
reactant | p-toluenesulfonic acid monohydrate | 6.36 mmol, 1.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
product | 6-Hydroxy-2,5-quinolinedipropanoic Acid Diethyl Ester | 0.909 g, 82.9% | C(C)OC(CCC1=NC=2C=CC(=C(C2C=C1)CCC(=O)OCC)O)=O | C19H23NO5
